US08802713B2
0.95 g of ethyl 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-(2,2,3,3,3-pentafluoropropoxy)pyrazole-5-carboxylate was dissolved in 20 mL of ethanol. To this solution, a solution having 0.42 g of potassium hydroxide dissolved in 10 mL of water was added, followed by stirring at room temperature for 30 minutes. Concentrated hydrochloric acid was added to adjust the pH to 2, the solvent was distilled off under reduced pressure, extraction with ethyl acetate was carried out, and the organic layer was dried over anhydrous sodium sulfate. Then, the solvent was distilled off under reduced pressure to obtain 0.90 g of 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-(2,2,3,3,3-pentafluoropropoxy)pyrazole-5-carboxylic acid.

reactant | ethyl 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-(2,2,3,3,3-pentafluoropropoxy)pyrazole-5-carboxylate | 0.95 g | FC1=C(C=C(C(=C1)C)SCC(F)(F)F)N1N=C(C=C1C(=O)OCC)OCC(C(F)(F)F)(F)F | C18H15F9N2O3S
reactant | potassium hydroxide | 0.42 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | water | 10 mL | O | H2O
product | 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-(2,2,3,3,3-pentafluoropropoxy)pyrazole-5-carboxylic acid | 0.90 g | FC1=C(C=C(C(=C1)C)SCC(F)(F)F)N1N=C(C=C1C(=O)O)OCC(C(F)(F)F)(F)F | C16H11F9N2O3S
